US08791132B2
9-Methyl-2,3,4,5,6,10c-hexahydro-1H-3a,6-diaza-cyclopenta[c]fluorene (200 mg, 0.88 mmol) was dissolved in DMF (3 mL), sodium hydride (106 mg, 2.65 mmol) was added and stirred for 15 min. at RT. 2-Methyl-5-(2-methyl-oxiranyl)-pyridine (263 mg, 1.76 mmol) was added dropwise into the reaction mixture and the mixture was stirred at RT for 3 h. The reaction was monitored by TLC and LCMS. After consumption of starting material, the reaction mixture was quenched with ice cold water (20 mL) and extracted with EtOAc (3×30 mL). The combined organic layer was washed with water (2×60 mL), dried over anhydrous sodium sulfate and concentrated to obtain the crude product, which was purified by reverse phase chromatography to obtain 200 mg of 1-(9-methyl-1,2,3,4,5,10c-hexahydro-3a,6-diaza-cyclopenta[c]fluoren-6-yl)-2-(6-methyl-pyridin-3-yl)-propan-2-ol. 1H NMR (CD3OD, HCl salt) δ (ppm): 8.5 (d, 1H), 8.3 (s, 1H), 7.79 (d, 1H), 7.22 (s, 1H), 6.82 (s, 2H), 5.03 (t, 1H), 4.38 (dd, 2H), 3.8 (m, 1H), 3.66 (m, 2H),3.46 (m, 2H), 3.2 (m, 2H), 2.7 (m, 1H), 2.67 (s, 3H), 2.36 (s, 3H), 2.22 (m, 2H), 1.77 (s, 3H). Separation by chiral HPLC provided enantiomers II-128a-b.

reactant | 9-Methyl-2,3,4,5,6,10c-hexahydro-1H-3a,6-diaza-cyclopenta[c]fluorene | 0.88 mmol, 200 mg | CC1=CC=2C=3C4N(CCC3NC2C=C1)CCC4 | C15H18N2
reactant | sodium hydride | 2.65 mmol, 106 mg | [H-].[Na+]
reactant | 2-Methyl-5-(2-methyl-oxiranyl)-pyridine | 1.76 mmol, 263 mg | CC1=NC=C(C=C1)C1(OC1)C | C9H11NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-(9-methyl-1,2,3,4,5,10c-hexahydro-3a,6-diaza-cyclopenta[c]fluoren-6-yl)-2-(6-methyl-pyridin-3-yl)-propan-2-ol | 200 mg | CC1=CC=2C=3C4N(CCC3N(C2C=C1)CC(C)(O)C=1C=NC(=CC1)C)CCC4 | C24H29N3O
